US07244759B2
A solution of naphtho[1,2-c]furan-1,3-dione (440 mg, 2.2 mmol) and 3-amino-3-(3-ethoxy-4-methoxy-phenyl)-propionitrile (490 mg, 2.2. mmol) in acetic acid (10 mL) was heated to reflux overnight. The solvent was removed in vacuo to give a solid, which was purified with chromatography (Silica Gel, CH2Cl2) to give 3-(1,3-dioxobenzo[e]isoindolin-2-yl)-3-(3-ethoxy-4-methoxyphenyl)propanenitrile as a yellow solid (430 mg, 48% yield): mp 163.0-165.0° C.; 1H NMR (CDCl3) δ 1.46 (t, J=7 Hz, 3H, CH3), 3.34 (dd, J=7, 17 Hz, 1H, CHH), 3.80-3.92 (m, 1H, CHH), 3.84 (s, 3H, CH3), 4.10 (q, J=7 Hz, 2H, CH2), 5.67 (dd, J=7, 10.1 Hz, 1H, NCH), 6.82-6.86 (m, 1H, Ar), 7.11-7.13 (m, 2H, Ar), 7.61-7.74 (m, 2H, Ar), 7.81 (d, J=8 Hz, 1H, Ar), 7.92 (d, J=7.9 Hz, 1H, Ar), 8.14 (d, J=8.3 Hz, 1H, Ar), 8.87 (d, J=8 Hz, 1H, Ar); 13C NMR (CDCl3) δ 14.66, 21.22, 50.97, 55.91, 64.48, 111.43, 112.19, 117.00, 118.46, 120.03, 124.79, 126.79, 127.96, 128.73, 128.94, 129.24, 129.66, 130.78, 135.37, 136.68, 148.56, 149.72, 168.37, 168.92. Analy. calculated for C24H20N2O4: C, 71.99; H, 5.03; N, 7.00. Found: C, 71.81; H, 5.04; N, 7.00.

reactant | naphtho[1,2-c]furan-1,3-dione | 2.2 mmol, 440 mg | C1(OC(C2=C1C1=CC=CC=C1C=C2)=O)=O | C12H6O3
reactant | 3-amino-3-(3-ethoxy-4-methoxy-phenyl)-propionitrile | 490 mg | NC(CC#N)C1=CC(=C(C=C1)OC)OCC | C12H16N2O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3-(1,3-dioxobenzo[e]isoindolin-2-yl)-3-(3-ethoxy-4-methoxyphenyl)propanenitrile | 430 mg, 48% yield | O=C1N(C(C=2C=CC3=C(C12)C=CC=C3)=O)C(CC#N)C3=CC(=C(C=C3)OC)OCC | C24H20N2O4
